US06759414B2
C. 5-Acetyl-2-[(1-tert-butoxycarbonylpiperidin-4-ylcarbonyl)amino]benzoic Acid
To a stirring solution of 5-acetyl-2-[(1-tert-butoxycarbonylpiperidin-4-ylcarbonyl)amino]-1-iodobenzene (4.5 g, 9.53 mmol) in acetonitrile (150 mL) was added potassium carbonate (6.6 g, 47.7 mmol), followed by tetrakis-(triphenylphosphine)palladium(0) (0.55 g, 0.48 mmol), and copper iodide (91 mg, 0.48 mmol). The mixture was placed under an atmosphere of carbon monoxide and heated to 80° C. After 3 h, 1 N aqueous sodium hydroxide (50 mL) was added to the hot reaction solution. The solution was stirred for 10 min and concentrated in vacuo. The residue was partitioned between ethyl acetate and water. The aqueous phase was filtered, acidified to pH 3 with citric acid, and extracted with ethyl acetate. The organic phase was washed with brine, dried over magnesium sulfate, filtered, and concentrated in vacuo to give 1.4 g (38%) of a white solid.

reactant | 5-acetyl-2-[(1-tert-butoxycarbonylpiperidin-4-ylcarbonyl)amino]-1-iodobenzene | 9.53 mmol, 4.5 g | C(C)(=O)C=1C=CC(=C(C1)I)NC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C19H25IN2O4
reactant | potassium carbonate | 47.7 mmol, 6.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 1 N, 50 mL | [OH-].[Na+]
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
catalyst | copper iodide | 0.48 mmol, 91 mg | [Cu](I)I
product | 5-Acetyl-2-[(1-tert-butoxycarbonylpiperidin-4-ylcarbonyl)amino]benzoic Acid | 1.4 g, 38% | C(C)(=O)C=1C=CC(=C(C(=O)O)C1)NC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C20H26N2O6
